US04221810
Preparation of dihydrophytol
Phytol (30.0 g, 0.101 mol) was dissolved in 200 ml of ethanol. A suspension of 1.8 g of Raney-Ni (W-1) in 5 ml of ethanol was added thereto, and hydrogenation was carried out under hydrogen for about 5 hours so that 2405 ml of hydrogen (theoretical volume at 24° C.; 2465 ml) was absorbed. After filtering off the catalyst through a filter paper, the ethanol was evaporated. Yield 29.9 g. Silica gel column chromatography with benzene-hexane (1:1) gave 24.7 g of the title compound (yield 82.3%).

reactant | Phytol | 0.101 mol, 30.0 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | hydrogen | 2405 ml | [H][H] | H2
reactant | benzene hexane | C1=CC=CC=C1.CCCCCC
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
product | dihydrophytol | 24.7 g, yield 82.3% | CC(C)CCCC(C)CCCC(C)CCCC(C)CCO | C20H42O
